US03969373
A solution of 3.95 g of 2-[4-(2-carboxyethyl)phenyl]-1-dimethylamino-4-phenyl-1-butene-3,4-dione in 100 ml of 2% potassium hydroxide solution was stirred at room temperature for 31/2 hrs. The reaction mixture was poured onto 300 ml of ice-water, acidified with 100 ml of 1N hydrochloric acid and extracted with methylene chloride. The organic extract was washed with water, dried, filtered and evaporated. Recrystallization of a sample of the residue from methylene chloride-petroleum ether gave 2-hydroxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3(2H)-furanone as colorless crystals, m.p. 89°-95° dec., after drying at 50°C.

reactant | 2-[4-(2-carboxyethyl)phenyl]-1-dimethylamino-4-phenyl-1-butene-3,4-dione | 3.95 g | C(=O)(O)CCC1=CC=C(C=C1)C(=CN(C)C)C(C(=O)C1=CC=CC=C1)=O | C21H21NO4
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | potassium hydroxide | 100 ml | [OH-].[K+]
product | 2-hydroxy-2-phenyl-4-[4-(2-carboxyethyl)phenyl]-3(2H)-furanone | Yield: 93% | OC1(OC=C(C1=O)C1=CC=C(C=C1)CCC(=O)O)C1=CC=CC=C1 | C19H16O5
